US08536182B2
1,1-Dimethylethyl (2R,6S)-4-[(4-bromophenyl)methyl]-2,6-dimethyl-1-piperazinecarboxylate (D43)
A mixture of 4-bromobenzaldehyde (1.85 g, 10 mmol), 1,1-dimethylethyl (2R,6S)-2,6-dimethyl-1-piperazinecarboxylate (2.15 g, 10 mmol) and sodium triacetoxyborohydride (3.18 g) in 1,2-DCE (35 ml) was stirred at room temperature for 3 days. Saturated aq. NaHCO3 solution was added and the mixture stirred for 30 mins. The product was extracted into EtOAc and the extracts dried (Na2SO4) and concentrated. The residue was dissolved in DCM and treated with PS-hydrazine resin with stirring for 2 h. The resin was removed by filtration and the solvent removed in vacuo. Chromatography (0-40% EtOAc/hexane) gave the title compound (3.52 g). MS (ES): MH+ 383/385.

reactant | 4-bromobenzaldehyde | 10 mmol, 1.85 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 1,1-dimethylethyl (2R,6S)-2,6-dimethyl-1-piperazinecarboxylate | 10 mmol, 2.15 g | C[C@H]1N([C@H](CNC1)C)C(=O)OC(C)(C)C | C11H22N2O2
reactant | sodium triacetoxyborohydride | 3.18 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-DCE | 35 ml | ClCCCl | C2H4Cl2
product | 1,1-Dimethylethyl (2R,6S)-4-[(4-bromophenyl)methyl]-2,6-dimethyl-1-piperazinecarboxylate | 3.52 g | BrC1=CC=C(C=C1)CN1C[C@H](N([C@H](C1)C)C(=O)OC(C)(C)C)C | C18H27BrN2O2
